US05591752
2-(7-Chloroquinolin-2-yl)methoxy-11-oxo-8-(tetrazol-5-yl)-6,11-dihydrodibenz[b,e]oxepine
1.03 g of trimethyltin azide was added to 1.07 g of 2-(7-chloroquinolin-2-yl)methoxy-8-cyano-11-oxo-6,11-dihydrodibenz[b,e]oxepine obtained by the same method as in Reference example 34 suspended in 30 ml of xylene and the mixture was refluxed under heating for 13 hours. 1 ml of conc. hydrochloric acid was added to the reaction mixture, the mixture was adjusted to about pH 4 with a 1N-sodium hydroxide aqueous solution and crystals precipitated were collected by filtration. The crystals were dissolved in a chloroform-methanol mixed solution and the organic layer was washed with a saturated saline solution and then dried over anhydrous sodium sulfate. The residue obtained by removing the solvent was applied to silica gel column chromatography to obtain 1.25 g of the title compound.

reactant | trimethyltin azide | 1.03 g | C[Sn](C)(C)N=[N+]=[N-]
reactant | 2-(7-chloroquinolin-2-yl)methoxy-8-cyano-11-oxo-6,11-dihydrodibenz[b,e]oxepine | 1.07 g | ClC1=CC=C2C=CC(=NC2=C1)COC1=CC2=C(OCC3=C(C2=O)C=CC(=C3)C#N)C=C1 | C25H15ClN2O3
reactant | hydrochloric acid | 1 ml | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | xylene | 30 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-(7-Chloroquinolin-2-yl)methoxy-11-oxo-8-(tetrazol-5-yl)-6,11-dihydrodibenz[b,e]oxepine | 1.25 g | ClC1=CC=C2C=CC(=NC2=C1)COC1=CC2=C(OCC3=C(C2=O)C=CC(=C3)C3=NN=NN3)C=C1 | C25H16ClN5O3
